data/mechanisms/records/IMS4-EQ4.26.json
{"mechanism_id": "IMS4-EQ4.26", "species": [{"species_id": "ether_radical_cation", "mapped_smiles": "[CH3:1][CH2:2][O+:3][CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methoxymethylene_cation", "mapped_smiles": "[CH2:2]=[O+:3][CH3:4]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_radical_Rprime", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "formaldehyde", "mapped_smiles": "[CH2:2]=[O:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_cation_R", "mapped_smiles": "[CH3+:4]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["ether_radical_cation"]}, {"state_id": "state_after_alpha", "species_ids": ["methoxymethylene_cation", "methyl_radical_Rprime"]}, {"state_id": "state_products", "species_ids": ["formaldehyde", "methyl_cation_R", "methyl_radical_Rprime"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_after_alpha", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [3]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_cleavage", "from_state": "state_after_alpha", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 66, "equation": "4.26", "section": "Even-electron ions (Sec. 4.4/4.9)"}, "confidence": 0.9, "curator_note": "Generic scheme R'-CH2-O-R, molecular ion n-ionized at oxygen; step 1 is the alpha-cleavage that expels R'. and forms the oxocarbenium CH2=O(+)-R. Book draws 3 arc(s); moves <1,2,3> are ALL drawn on the page -- the odd electron on O into the forming C=O bond (move 1), one electron of the R'-CH2 sigma bond into that same forming C=O bond (move 2), and the second electron of that sigma bond onto the departing R' radical (move 3). No implicit homolysis hook is required. Instantiated here as ethyl methyl ether radical cation CH3CH2-O-CH3(+.) (R'=CH3, R=CH3): oxocarbenium = CH2=O(+)-CH3 at m/z 45.0335."}, {"evidence_id": "evidence_step_inductive", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 66, "equation": "4.26", "section": "Even-electron ions (Sec. 4.4/4.9)"}, "confidence": 0.9, "curator_note": "Step 2 (labelled 'i') is the inductive cleavage of the even-electron oxocarbenium CH2=O(+)-R: the O-R sigma bond breaks heterolytically with both electrons going to oxygen, giving neutral CH2O and R(+). Book draws 1 arc (a single full curved arrow from the O-R bond onto O); move 1 (electron_count 2) is that drawn arrow. The C=O double bond is untouched. Text notes this two-step route is energetically less favourable (by 0.2-0.8 eV) than its one-step counterpart Eq 4.22 but is not rejected. R(+) computed m/z 15.0229 derives from the R=CH3 instantiation, not the book (no m/z or % printed)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 60.057, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_R_cation", "species_id": "methyl_cation_R", "step_id": "step_inductive_cleavage", "observed_mz": 15.0229, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
